US04525289
Step 3: Preparation of alpha-(diisopropyl phosphono)lauramide:
553 g (1.57 moles) of alpha-(diisopropyl phosphono)lauric acid was placed in a 3 liter flask. 791 g (6.28 moles) of distilled oxalyl chloride was carefully added while maintaining the temperature at or slightly below 35° C. (Temperatures much above 35° C. result in oxalyl chloride attack on the phosphonate esters, and too rapid addition results in foaming.) The temperature was maintained at 35° C. for 4 hours, after which I.R. analysis revealed all the acid had converted to the acid chloride. Excess oxalyl chloride was distilled off while maintaining the temperature at 35° C. or below. The product was then diluted with an equal volume of freshly distilled THF and added to a 3 liter flask containing about 1 liter of condensed ammonia. Following a vigorous reaction, the mixture was allowed to stand and warm overnight. Excess ammonia was driven off using a steam bath, and 1 liter of chloroform was added and heated to reflux. The hot chloroform solution was filtered to remove insoluble ammonium chloride and then flash evaporated. The solid residue was dissolved as a 30% solution in pentane, chilled to -78° C. and then placed in a refrigerator. After standing overnight, a crystalline product was collected, dried and ground to a powder. The product weighed 417 g (70% yield) and was pure as verified by TLC and 1H NMR.

reactant | alpha-(diisopropyl phosphono)lauric acid | 1.57 moles, 553 g | C(C)(C)OP(=O)(OC(C)C)C(C(=O)O)CCCCCCCCCC | C18H37O5P
reactant | ammonia | N | H3N
reactant | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
solvent | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | oxalyl chloride | 6.28 moles, 791 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | alpha-(diisopropyl phosphono)lauramide | 70% yield | C(C)(C)OP(=O)(OC(C)C)C(C(=O)N)CCCCCCCCCC | C18H38NO4P
